US04983596
To a solution of (2S,4R)-1-benzyloxycarbonyl-2-[{3-(methoxycarbonyl)-2-oxopropyl}oxymethyl]-4-methanesulfonyloxypyrrolidine (7 g) in ethanol (80 ml) was added by portions sodium borohydride (1.2 g) at 0° C. After 6 hours, to the reaction mixture was carefully added dropwise acetone (30 ml) at 0° C. and then the solvent was evaporated in vacuo. To the resultant residue were added ethyl acetate (100 ml) and water (50 ml). The organic layer was separated, washed with brine (50 ml) and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (500 ml) eluting with a mixture of dichloromethane and methanol (18:1 V/V) to give (2S,4R)-1-benzyloxycarbonyl-2-[{3-(ethoxycarbonyl)-2-hydroxypropyl}oxymethyl]-4-methanesulfonyloxypyrrolidine (5.1 g).

reactant | (2S,4R)-1-benzyloxycarbonyl-2-[{3-(methoxycarbonyl)-2-oxopropyl}oxymethyl]-4-methanesulfonyloxypyrrolidine | 7 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(CC(=O)OC)=O | C19H25NO9S
reactant | sodium borohydride | 1.2 g | [BH4-].[Na+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | (2S,4R)-1-benzyloxycarbonyl-2-[{3-(ethoxycarbonyl)-2-hydroxypropyl}oxymethyl]-4-methanesulfonyloxypyrrolidine | 5.1 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(CC(=O)OCC)O | C20H29NO9S
